US07691869B2
The title D compound of Example 1, 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate (20 mg, 0.06 mmol) and the title A compound, N′-(2,4-difluorophenyl)butane-1,4-diamine (22 mg, 0.12 mmol) are dissolved in 1 mL of n-butanol/DMF (1:1), to which solution is added 8 drops of DBU. The solution is heated at 110° C. for 1 h. The reaction is complete as indicated by TLC. The solvent is removed under vacuum and the residue is purified by flash chromatography to obtain N1-(2-(5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl)ethyl)-N4-(2,4-difluorophenyl)butane-1,4-diamine as an off-white solid: 1H NMR (CDCl3) 51.51-1.68 (m, 4H), 2.7 (t, 2H, J=6.81 Hz), 3.04-3.10 (m, 4H), 4.29 (t, 2H, J=6.05 Hz), 6.50-6.57 (m, 1H), 6.58 (dd, 1H, J=3.44, 1.73 Hz), 6.66-6.78 (m, 2H), 6.80 (d, 1H, J=3.47 Hz), 6.91 (s, 1H), 7.24 (dd, 1H, J=3.44, 0.76 Hz), 7.61 (dd, 1H, J=1.73, 0.76 Hz).

reactant | 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate | 0.06 mmol, 20 mg | CS(=O)(=O)OCCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C14H14N6O4S
reactant | N′-(2,4-difluorophenyl)butane-1,4-diamine | 0.12 mmol, 22 mg | FC1=C(C=CC(=C1)F)NCCCCN | C10H14F2N2
solvent | n-butanol DMF | 1 mL | C(CCC)O.CN(C)C=O
catalyst | DBU | 8 drops | C1CCC2=NCCCN2CC1 | C9H16N2
product | N1-(2-(5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl)ethyl)-N4-(2,4-difluorophenyl)butane-1,4-diamine | NC1=NC2=C(C=3N1N=C(N3)C=3OC=CC3)C=CN2CCNCCCCNC2=C(C=C(C=C2)F)F | C23H24F2N8O
